US06150351
To a solution of benzhydryl 7β-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (500 mg) in tetrahydrofuran (12.5 ml) was added N-trimethylsilylacetamide (550 mg), and stirred at room temperature for 20 minutes. To the solution was added dropwise a solution of phenyl acetyl chloride (146 μl) above at -20° C. for 2 minutes. The mixture was stirred at -20~-15° C. for 50 minutes. To the reaction mixture were added water (50 ml), ethyl acetate (50 ml) and tetrahydrofuran (15 ml). The organic layer was separated, washed with water and saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with ethyl acetate to give benzhydryl 7β-(2-phenylacetamido)-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (532 mg).

reactant | benzhydryl 7β-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 500 mg | N[C@H]1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S2
reactant | N-trimethylsilylacetamide | 550 mg | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | phenyl acetyl chloride | 146 μl | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 12.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7β-(2-phenylacetamido)-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 532 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C35H29N3O4S2
